US07354917B2
(i) 7-(2-{[3-(4-Cyanophenyl)propyl]methanesulfonylamino}ethyl)-9-oxa-3,7-diazabicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester
A mixture of 9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester (2.35 g, 0.01 mol; see WO 01/28992), methanesulfonic acid 2-{[3-(4-cyanophenyl)propyl]methanesulfonylamino}ethyl ester (3.7 g, 0.01 mol; see Preparation A above) and anhydrous K2CO3 (2.1 g, 0.015 mol) in dry acetonitrile (70 mL) was stirred under nitrogen atmosphere at 55-60° C. for 3 days. After filtration and concentration, the crude product was purified by column chromatography (silica gel: 60-120 mesh, eluent: petroleum ether-ethyl acetate, 50:50). Yield: 3.25 g (66%).

reactant | 9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | 0.01 mol, 2.35 g | C(C)(C)(C)OC(=O)N1CC2CNCC(C1)O2 | C11H20N2O3
reactant | methanesulfonic acid 2-{[3-(4-cyanophenyl)propyl]methanesulfonylamino}ethyl ester | C(#N)C1=CC=C(C=C1)CCCN(CCOS(=O)(=O)C)S(=O)(=O)C | C14H20N2O5S2
reactant | K2CO3 | 0.015 mol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 7-(2-{[3-(4-Cyanophenyl)propyl]methanesulfonylamino}ethyl)-9-oxa-3,7-diazabicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC(C1)O2)CCN(S(=O)(=O)C)CCCC2=CC=C(C=C2)C#N | C24H36N4O5S
